US07410986B2
2-amino-6-(2-hydroxyphenyl)-4-(3-hydroxycarbonyl-phenyl)nicotinonitrile (0.02 g, 0.045 mmol) was dissolved in 4N NaOH solution (2 mL), and the resulting solution was purified by HPLC (ODS reverse phase column, 10% CH3CN/H2O-90% CH3CN/H2O) to give Sodium 3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]benzoate as a pale yellow powder (0.015 g, 95%).

reactant | 2-amino-6-(2-hydroxyphenyl)-4-(3-hydroxycarbonyl-phenyl)nicotinonitrile | 0.045 mmol, 0.02 g | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)O)C1=CC(=CC=C1)C(=O)O | C19H13N3O3
reactant | NaOH | 4N, 2 mL | [OH-].[Na+]
product | Sodium 3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]benzoate | 0.015 g, 95% | NC1=NC(=CC(=C1C#N)C=1C=C(C(=O)[O-])C=CC1)C1=C(C=CC=C1)O.[Na+] | InChI=1S/C19H13N3O3.Na/c20-10-15-14(11-4-3-5-12(8-11)19(24)25)9-16(22-18(15)21)13-6-1-2-7-17(13)23;/h1-9,23H,(H2,21,22)(H,24,25);/q;+1/p-1
